US04547514
3-(3,5-Dichlorophenoxy)-1-pyrrolidinecarbonyl Chloride
To a stirred solution of 200 ml of 2 molar phosgene in benzene under nitrogen gas was added dropwise over a 3 hr period, a solution of 115 g (0.358 mole) of 1-benzyl-3-(3,5-dichlorophenoxy)pyrrolidine in 100 ml of benzene. The resulting solution was concentrated on a rotary evaporator to give an oil. The oil was triturated three times with boiling 30/60 petroleum ether, decanting each time. The oil residue solidified on cooling. The solid was taken up in benzene and the solution filtered, charcoaled and filtered. Crystalline product was obtained by adding ligroin and cooling to 5° C. in the amount of 92.7 g (87.9%), m.p. 105°-107° C. A purer 3 g sample, m.p. 106°-108° C. was obtained from the petroleum ether on standing.

reactant | phosgene | 2 molar, 200 ml | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-3-(3,5-dichlorophenoxy)pyrrolidine | 0.358 mole, 115 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC(=CC(=C1)Cl)Cl | C17H17Cl2NO
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-(3,5-Dichlorophenoxy)-1-pyrrolidinecarbonyl Chloride | ClC=1C=C(OC2CN(CC2)C(=O)Cl)C=C(C1)Cl | C11H10Cl3NO2
